US07626042B2
(2) 2-(Morpholinocarbonyl)oxy-5-(3-thienyl)-N-[3,5-bis(trifluoromethyl)phenyl]-benzamide(Compound No. 146)
Using 2-hydroxy-5-(3-thienyl)-N-[3,5-bis(trifluoromethyl)phenyl]benzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 2-hydroxy-5-(3-thienyl)-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C1=CSC=C1 | C19H11F6NO2S
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 2-(Morpholinocarbonyl)oxy-5-(3-thienyl)-N-[3,5-bis(trifluoromethyl)phenyl]-benzamide | Yield: 92.7% | O1CCN(CC1)C(=O)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C1=CSC=C1 | C24H18F6N2O4S
